US05189054
Scheme I, step d2 : 3-[(o-fluorophenacyl)amino]-2-carbethoxy-4,6-dichloro-1-(tert-butyloxycarbonyl)-indole
Mix 3-[(o-fluorophenacyl)amino]-2-carbethoxy-4,6-dichloroindole (850 mg, 2.15 mmol), di-tert-butyl dicarbonate (479 mg, 2.5 mmol), tetrahydrofuran (20 mL), dimethylaminopyridine (42 mg, 0.3 mmol) and stir at room temperture for 15 minutes. Dilute with ethyl acetate (100 mL), wash with water, saturated sodium chloride, dry orver magnesium sulfate, filter and concentrate in vacuo. Recrystallize the residue from hot hexane containing some diethyl ether to yield the title compound (880 mg, 84%) as colorless crystals.

reactant | 3-[(o-fluorophenacyl)amino]-2-carbethoxy-4,6-dichloroindole | 2.15 mmol, 850 mg | FC1=C(C(CNC2=C(NC3=CC(=CC(=C23)Cl)Cl)C(=O)OCC)=O)C=CC=C1 | C19H15Cl2FN2O3
reactant | di-tert-butyl dicarbonate | 2.5 mmol, 479 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
reactant | dimethylaminopyridine | 0.3 mmol, 42 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 3-[(o-fluorophenacyl)amino]-2-carbethoxy-4,6-dichloro-1-(tert-butyloxycarbonyl)-indole | 880 mg, 84% | FC1=C(C(CNC2=C(N(C3=CC(=CC(=C23)Cl)Cl)C(=O)OC(C)(C)C)C(=O)OCC)=O)C=CC=C1 | C24H23Cl2FN2O5
